Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Scrotal pain and swelling
 
Major Surgical or Invasive Procedure:
Incision and drainage of scrotal abcess at bedside- Dr. ___- 
___

 
History of Present Illness:
___ w/ DM2 recently s/p L hydrocelectomy (___) presents with 2
day history of subjective fevers, and painful L scrotal 
swelling.
Immediately postoperatively he did well and was without swelling
or pain until two days ago.  He did not check his temperature at
home but felt quite sick. In the ED he is afebrile but with
leukocytosis of 13.8 and SUS showing L epididmo-orchidis with
complex pyocele.

 
Past Medical History:
DM2
 
Social History:
___
Family History:
father with DM
 
___ Results:
___ 06:35AM BLOOD WBC-9.6 RBC-4.65 Hgb-13.6* Hct-39.7* 
MCV-85 MCH-29.3 MCHC-34.3 RDW-12.5 Plt ___
___ 09:10AM BLOOD WBC-13.8* RBC-4.72 Hgb-14.0 Hct-40.9 
MCV-87 MCH-29.7 MCHC-34.2 RDW-12.2 Plt ___
___ 06:35AM BLOOD Glucose-136* UreaN-14 Creat-1.0 Na-136 
K-4.4 Cl-100 HCO3-28 AnGap-12
___ 01:00PM BLOOD Glucose-194* UreaN-15 Creat-1.0 Na-132* 
K-4.0 Cl-97 HCO3-24 AnGap-15
___ 01:00PM BLOOD %HbA1c-7.9* eAG-180*
 
Brief Hospital Course:
Patient admitted to Urology service for treatment of scrotal 
infection s/p hydrocelectomy performed by Dr. ___ on ___. 
Patient was placed on empiric antibiotics, his cultures to date 
have not grown an identifiable orangism.  A small incision was 
made in the left testicle for drainage of an assumed fluid 
collection, very little was expressed.  The patient was given 
instruction related to daily dressing changes and care of the 
wound site. His antibiotics were oralized to Levofloxacin.  He 
was discharged home on HD3 in stable condition, WBC trending 
downward and on a 7 day course of antibiotics.  He was advised 
to follow up in the Urology Resident Clinic in one week for a 
wound check or to return sooner if he noted increased pain, 
fever or any signs of infection.  
 
Medications on Admission:
Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
Pioglitazone 15 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

Glipizide 5 mg Tablet Extended Rel 24 hr Sig: Two (2) Tablet 
Extended Rel 24 hr PO DAILY (Daily).  

 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
2. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
3. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Pioglitazone 15 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Glipizide 5 mg Tablet Extended Rel 24 hr Sig: Two (2) Tablet 
Extended Rel 24 hr PO DAILY (Daily).  
6. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours) for 10 days.
Disp:*10 Tablet(s)* Refills:*0*
7. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Scrotal infection s/p hydrocelectomy

 
Discharge Condition:
Stable

 
Discharge Instructions:
Discharge instructions
-You may shower but do not bathe, swim or otherwise immerse your 
incision for 4 weeks.

-Change the wicking material daily as instructed by nursing 
staff prior to discharge, please use supplies provided

-Please follow up with Resident ___ on ___ as 
instructed below

-Please check and make sure your blood sugars are at optimal 
levels to ensure proper healing and reduce risk of infection 
recurrence
 
-Do not lift anything heavier than a phone book for 2 weeks.
 
-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4.  
Replace Tylenol with narcotic pain medication.  Max daily 
Tylenol dose is 4gm, note that narcotic pain medication also 
contains Tylenol (acetaminophen)

-Do not drive or drink alcohol while taking narcotics

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops.
 
-If you have fevers > 101.5 F, or increased redness, swelling, 
or discharge from your incision, call your doctor or go to the 
nearest emergency room.
 

 
Followup Instructions:
___